US07071201B2
(80-1-1) Ethyl 1-benzyl-4,4-ethylenedioxy-3-piperidinecarboxylate
p-Toluenesulfonic acid monohydrate (1.5 g) was added to a solution (600 ml) of ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate (CAS Registry No. 1454-53-1, 44.7 g) and ethylene glycol (100 ml) in toluene and the resultant mixture was heated under reflux overnight. After cooling the mixture to room temperature, ice water (500 ml) and a saturated aqueous solution (300 ml) of sodium bicarbonate were added thereto followed by extraction with ethyl acetate (400 ml) for three times. The organic phase was washed successively with water (200 ml) twice and brine (300 ml) and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (30.4 g) as a yellow oil (yield: 66%).

reactant | p-Toluenesulfonic acid monohydrate | 1.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate | 600 ml | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC | C15H19NO3
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-benzyl-4,4-ethylenedioxy-3-piperidinecarboxylate | 30.4 g, yield: 66% | C(C1=CC=CC=C1)N1CC(C2(CC1)OCCO2)C(=O)OCC | C17H23NO4
